US06096743
By using 2.78 g of 2,4-difluoro-5-nitrophenylmethyl ether, 4.45 g of triethylamine, 30 ml of DMF, 30 ml of THF and 2.05 g of glycine ethyl ester, 0.52 g (13%) of N-(5-fluoro-4-methoxy-2-nitrophenyl)glycine ethyl ester was obtained.

reactant | 2,4-difluoro-5-nitrophenylmethyl ether | 2.78 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])COCC1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C14H8F4N2O5
reactant | triethylamine | 4.45 g | C(C)N(CC)CC | C6H15N
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | glycine ethyl ester | 2.05 g | C(C)OC(CN)=O | C4H9NO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-(5-fluoro-4-methoxy-2-nitrophenyl)glycine ethyl ester | 0.52 g, 13% | C(C)OC(CNC1=C(C=C(C(=C1)F)OC)[N+](=O)[O-])=O | C11H13FN2O5
